US07465815B2
4,6,7-Trimethyl-3-(4-methylphenyl)-1-benzofuran
A mixture of 1-(4-methylphenyl)-2-(2,3,5-trimethylphenoxy)ethanone obtained in Reference Example 163 (1.0 g, 3.73 mmol) and polyphosphoric acid (6.0 g) was stirred at 80° C. for one and half hours. Water was added to the reaction solution, which was extracted with ethyl acetate. The organic layer was washed with a saturated sodium hydrogen carbonate solution, dried over anhydrous sodium sulfate, and then concentrated under reduced pressure to obtain 770 mg (yield 83%) of the title compound. Melting point: 112-113° C. (ethyl acetate-methanol).

reactant | 1-(4-methylphenyl)-2-(2,3,5-trimethylphenoxy)ethanone | CC1=CC=C(C=C1)C(COC1=C(C(=CC(=C1)C)C)C)=O | C18H20O2
solvent | Water | O | H2O
product | 4,6,7-Trimethyl-3-(4-methylphenyl)-1-benzofuran | 770 mg, yield 83% | CC1=CC(=C(C2=C1C(=CO2)C2=CC=C(C=C2)C)C)C | C18H18O
